US05466661
Potassium carbonate (33.17 g) and DMF (180 ml) were added to salicylaldehyde (24.42 g), and the mixture was stirred at room temperature for 10 minutes. Then a mixture of 4-chlorobenzyl chloride (33.82 g) and DMF (20 ml) was added at room temperature over 15 minutes, and the mixture was stirred at 60° C. for 3 hours. After completion of the reaction, ether (500 ml) was added, and the mixture was washed with water (400 ml) three times, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give crude 2-(4-chlorobenzyloxy)benzaldehyde. The ethanol (200 ml) and hydroxylamine hydrochloride (27.80 g) was added to the crude product, and the mixture was stirred at 80° C. overnight. After completion of the reaction, water (400 ml) was added, and the mixture was extracted with methylene chloride (200 ml) three times, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting crude product was recrystallized from ethyl acetate/n-hexane to give 2-(4-chlorobenzyloxy)benzaldehyde oxime (32.06 g) as colorless crystals. mp. 122.5°-123.5° C.

reactant | Potassium carbonate | 33.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 180 ml | CN(C)C=O | C3H7NO
reactant | salicylaldehyde | 24.42 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | 4-chlorobenzyl chloride | 33.82 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ether | 500 ml | CCOCC | C4H10O
product | 2-(4-chlorobenzyloxy)benzaldehyde | ClC1=CC=C(COC2=C(C=O)C=CC=C2)C=C1 | C14H11ClO2
